US04515990
p-cymene is reacted with t-butylchloride, neohexene and a mixture of aluminium chloride and triethylaluminium to form 1,1,3,4,4,6-hexamethyl tetralin by the general process described in U.S. Pat. No. 3,856,875 or Japanese 79125647 but modified by cooling the reaction mixture by including dichloromethane in it and refluxing this from the mixture at about 20 mm Hg, thereby maintaining a reaction temperature of about -15° C.

reactant | p-cymene | CC=1C=CC(=CC1)C(C)C | C10H14
reactant | t-butylchloride | C(C)(C)(C)Cl | C4H9Cl
reactant | neohexene | C=CC(C)(C)C | C6H12
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | triethylaluminium | C(C)[Al](CC)CC
product | 1,1,3,4,4,6-hexamethyl tetralin | CC1(CC(C(C2=CC(=CC=C12)C)(C)C)C)C | C16H24
